US06887890B2
Synthesis of tris[4-(β-benzyloxycarbonylaminomethyl-L-alanyl) aminophenyl]methane hydrochloride
The tris[4-(β-benzyloxycarbonylaminomethyl-N-t-butoxycarbonyl-L-alanyl)aminophenyl]methane (the total amount obtained in the previous reaction) was dissolved in tetrahydrofuran (4 mL), and a hydrochloric acid/dioxane solution (2 N, 4 mL) was added while cooling on ice. The mixture was raised to room temperature and stirred for 4 hours, and then concentrated under reduced pressure to obtain the title compound.

reactant | tris[4-(β-benzyloxycarbonylaminomethyl-N-t-butoxycarbonyl-L-alanyl)aminophenyl]methane | C(C1=CC=CC=C1)OC(=O)NCC[C@H](NC(=O)OC(C)(C)C)C(=O)NC1=CC=C(C=C1)C(C1=CC=C(C=C1)NC([C@@H](NC(=O)OC(C)(C)C)CCNC(=O)OCC1=CC=CC=C1)=O)C1=CC=C(C=C1)NC([C@@H](NC(=O)OC(C)(C)C)CCNC(=O)OCC1=CC=CC=C1)=O | C70H85N9O15
reactant | hydrochloric acid dioxane | 2 N, 4 mL | Cl.O1CCOCC1
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | tris[4-(β-benzyloxycarbonylaminomethyl-L-alanyl) aminophenyl]methane hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)NCC[C@H](N)C(=O)NC1=CC=C(C=C1)C(C1=CC=C(C=C1)NC([C@@H](N)CCNC(=O)OCC1=CC=CC=C1)=O)C1=CC=C(C=C1)NC([C@@H](N)CCNC(=O)OCC1=CC=CC=C1)=O | InChI=1S/C55H61N9O9.ClH/c56-46(28-31-59-53(68)71-34-37-10-4-1-5-11-37)50(65)62-43-22-16-40(17-23-43)49(41-18-24-44(25-19-41)63-51(66)47(57)29-32-60-54(69)72-35-38-12-6-2-7-13-38)42-20-26-45(27-21-42)64-52(67)48(58)30-33-61-55(70)73-36-39-14-8-3-9-15-39;/h1-27,46-49H,28-36,56-58H2,(H,59,68)(H,60,69)(H,61,70)(H,62,65)(H,63,66)(H,64,67);1H/t46-,47-,48-;/m0./s1
